US06927221B2
2-Mesityl-3-nitropyridine
A solution of 2-chloro-3-nitropyridine (5.0 g, 31.5 mmol), mesitylboric acid (5.65 g, 34.7 mmol), Pd(PPh3)4 (1.82 g, 1.58 mmol) and barium hydroxide octahydrate (14.9 g, 47.3 mmol) in 2,2-dimethoxyethane (150 mL) and water (25 mL) was heated under reflux for one day. The mixture was filtered through Celite, and the filtrate was diluted with ethyl acetate, washed with brine, dried over anhydrous magnesium sulfate and evaporated. The residue was purified by silica gel column chromatogrpahy (10% ethyl acetate/hexane), to give the title compound (5.99 g) as pale yellow oil.

reactant | 2-chloro-3-nitropyridine | 31.5 mmol, 5.0 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | mesitylboric acid | 34.7 mmol, 5.65 g | C1(=C(C(=CC(=C1)C)C)OB(O)O)C | C9H13BO3
reactant | barium hydroxide octahydrate | 47.3 mmol, 14.9 g | O.O.O.O.O.O.O.O.[OH-].[Ba+2].[OH-]
solvent | 2,2-dimethoxyethane | 150 mL | COC(C)OC | C4H10O2
solvent | water | 25 mL | O | H2O
catalyst | Pd(PPh3)4 | 1.58 mmol, 1.82 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Mesityl-3-nitropyridine | 5.99 g | C1(=C(C(=CC(=C1)C)C)C1=NC=CC=C1[N+](=O)[O-])C | C14H14N2O2
